US07902187B2
3-(6-(3,3-difluoroazetidin-1-yl)-8-oxo-9-(1-(pyridin-3-yl)ethyl)-8,9-dihydro-7H-purin-2-yl)-3H-benzo[d]imidazole-5-carbonitrile.
White semi-solid. 57% yield. Synthesized from 3-(6-chloro-8-oxo-9-(1-(pyridin-3-yl)ethyl)-8,9-dihydro-7H-purin-2-yl)-3H-benzo[d]imidazole-5-carbonitrile (19 mg, 0.046 mmol) and 3,3-difluoroazetidine hydrochloride (3 equiv.) following the general procedure for displacement reactions of 6-chloropurinones with aliphatic amines. 1H NMR (300 MHz, CD3OD) δ, ppm: 9.27 (s, 1H), 9.20-9.00 (br m, 1H), 8.78 (d, 1H), 8.88-8.77 (m, 1H, overlapping with 8.78 ppm), 8.63 (s, 1H), 8.09 (br s, 1H), 7.88 (d, 1H), 7.67 (d, 1H), 6.13 (q, J=7.1 Hz, 1H), 4.78 (t, 4H), 2.16 (d, J=7.1 Hz, 3H); MS (EI) m/z 474.0 (MH)+.

reactant | 3-(6-chloro-8-oxo-9-(1-(pyridin-3-yl)ethyl)-8,9-dihydro-7H-purin-2-yl)-3H-benzo[d]imidazole-5-carbonitrile | 0.046 mmol, 19 mg | ClC1=C2NC(N(C2=NC(=N1)N1C=NC2=C1C=C(C=C2)C#N)C(C)C=2C=NC=CC2)=O | C20H13ClN8O
reactant | 3,3-difluoroazetidine hydrochloride | 3 equiv. | Cl.FC1(CNC1)F
product | 3-(6-(3,3-difluoroazetidin-1-yl)-8-oxo-9-(1-(pyridin-3-yl)ethyl)-8,9-dihydro-7H-purin-2-yl)-3H-benzo[d]imidazole-5-carbonitrile | 57% yield | FC1(CN(C1)C1=C2NC(N(C2=NC(=N1)N1C=NC2=C1C=C(C=C2)C#N)C(C)C=2C=NC=CC2)=O)F | C23H17F2N9O
